US04110449
2-[2-(3,6-Dihydro-4-phenyl-1(2H)-pyridinyl)ethyl]-1,2-benzothiazol-3(2H)-one, hydrochloride (1:1)
2.90 g (18.2 mM) Bromine is dissolved in 25 ml of carbon tetrachloride and is added dropwise to 6.07 g (18.2 mM) dimethyl 2,2'-dithiodibenzoate and stirred as a suspension in 25 ml of carbon tetrachloride. After the addition is complete, the red solution is stirred for 30 minutes and added dropwise to a stirred solution of 10.0 g (36.4 mM) 3,6-dihydro-4-phenyl-1(2H)-pyridineethanamine, hydrochloride (1:2) and 5.07 ml (36.4 mM) of triethylamine in 50 ml of carbon tetrachloride. The mixture is stirred overnight, diluted with chloroform, washed with 5% KOH, water, dried (Na2SO4), and the solvents evaporated.

reactant | Bromine | 18.2 mM, 2.90 g | BrBr | Br2
reactant | dimethyl 2,2'-dithiodibenzoate | 18.2 mM, 6.07 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)OC)C=CC=C1)(=O)OC | C16H14O4S2
reactant | 3,6-dihydro-4-phenyl-1(2H)-pyridineethanamine, hydrochloride | 36.4 mM, 10.0 g | Cl.C1(=CC=CC=C1)C=1CCN(CC1)CCN
reactant | triethylamine | 36.4 mM, 5.07 ml | C(C)N(CC)CC | C6H15N
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-(3,6-Dihydro-4-phenyl-1(2H)-pyridinyl)ethyl]-1,2-benzothiazol-3(2H)-one, hydrochloride | Cl.C1(=CC=CC=C1)C=1CCN(CC1)CCN1SC2=C(C1=O)C=CC=C2 | InChI=1S/C20H20N2OS.ClH/c23-20-18-8-4-5-9-19(18)24-22(20)15-14-21-12-10-17(11-13-21)16-6-2-1-3-7-16;/h1-10H,11-15H2;1H
